US06841568B2
5′-(3 -Chlorophenyl)spiro[cyclohexane-1,3′-[3H]indol]-2′-amine.
To a turbid solution of 5′-(3-Chlorophenyl)-N-hydroxyspiro[cyclohexane-1,3 -[3H]indol]-2-amine (0.500 g; 1.53 mmol) in 25 mL of ethanol was added hydrazine hydrate (0.600 mL; 12.24 mmol). The solution was warmed to 55° C., where Raney-nickel (50% in water) was added to the reaction to keep a constant evolution of gas. After 45 minutes, the hot reaction mixture was filtered through a Celite plug and rinsed with a copious amount of hot methanol. The filtrate was concentrated in vacuo to give 0.890 g of an opaque solid. The product was purified by flash silica gel chromatography, (eluant, 2% to 8% methanol-methylene chloride with 0.1% ammonium hydroxide) to afford 0.310 g (65%) of the desired product as a white solid. Mp. 118-120° C. 1H NMR δ (300 MHz, DMSO-d6) 1.31-1.46 (m, 2H), 1.70-1.93 (m, 8H), 7.0 (d, 1H), 7.1 (br, 2H 2NH), 7.31-7.34 (dt, 1H, J=8 Hz), 7.41-7.46 (t, 2H), 7.55-7.58 (d, 1H), 7.62 (s, 1H), 7.72 (s, 1H); MS (ECI(+ve)) m/z 311 (M+H)+.

reactant | 5′-(3-Chlorophenyl)-N-hydroxyspiro[cyclohexane-1,3 -[3H]indol]-2-amine | 1.53 mmol, 0.500 g | ClC=1C=C(C=CC1)C=1C=C2C3(C=NC2=CC1)C(CCCC3)NO | C19H19ClN2O
reactant | hydrazine hydrate | 12.24 mmol, 0.600 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Raney-nickel | [Ni] | Ni
product | 5′-(3 -Chlorophenyl)spiro[cyclohexane-1,3′-[3H]indol]-2′-amine | 0.310 g, 65% | ClC=1C=C(C=CC1)C=1C=C2C3(C(=NC2=CC1)N)CCCCC3 | C19H19ClN2
